Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]([C:6](=[O:7])[H:17])([H:12])[H:13])([C:4](=[C:5]([H:15])[H:16])[H:14])[H:11])([H:8])([H:9])[H:10],58.556569769273004
[C:1](/[C:2](=[N:3]\[H:11])[O:4][C:5]([C:6](=[O:7])[H:14])([H:12])[H:13])([H:8])([H:9])[H:10]>>[C:1]([C:2]=[N:3][H:11])([H:8])([H:9])[H:10].[O:4]1[C:5]([H:12])([H:13])[C@@:6]1([O:7])[H:14],79.101351552619
[O:1]([C:2]([C:3]([O:4][C:5]([C:6]#[C:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:11])([H:12])[O:4][C:5]([H:13])([H:14])[C:6][C:7]1([H:10])[H:15])[H:8],53.4417953128475
[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5]#[C:6][H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C@@:3]1([H:12])[C:5]([O:4][H:13])=[C:6]1[H:14])([H:10])[H:11])([H:7])([H:8])[H:9],68.09012688238461
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]2([C:5]([H:12])([H:13])[O:6]2)[C:7]1([H:14])[H:15])[H:8]>>[C:4]1(=[C:7]([H:14])[H:15])[C:5]([H:12])([H:13])[O:6]1.[O:1]([C:2](=[C:3]([H:10])[H:11])[H:9])[H:8],73.6976660264227
[C:1]([C:2]1=[C:3]([H:11])/[C:4](=[N:5]/[H:12])[O:6][C:7]1([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1](/[C:3](=[C:2]1[C:4](=[N:5]/[H:12])/[O:6][C:7]/1([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],150.305124146565
[C:1]([C:2]([c:3]1[c:4]([H:13])[n:5]([H:14])[n:6][n:7]1)([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]1=[C:4]([H:13])[N:7]1/[N:6]=[N:5]/[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],95.69179680277658
[C:1]([C:2](=[N:3][O:4][H:9])[C:5]([H:10])([H:11])[H:12])([H:6])([H:7])[H:8]>>[C:1](/[C:2](=[N:3]\[C:5]([H:10])([H:11])[H:12])[O:4][H:9])([H:6])([H:7])[H:8],80.191933202134
[O:1]([C:2]([C:3]([C:4](=[O:5])[C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8]>>[C:2](=[C:3]([H:11])[H:12])([H:9])[H:10].[O:1]([C:4](=[O:5])[C:6]([O:7][H:15])([H:13])[H:14])[H:8],52.0421807533067
[O:1]=[C:2]([C:3]([O:4][C:5](=[O:6])[H:10])([H:8])[H:9])[H:7]>>[O:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[O:6][C:5](=[O:4])[H:10],67.8628791480034
[C:1]([C:2]([C:3]#[C:4][H:10])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]1([H:5])([H:7])[C:2]([H:8])([H:9])[C:3]1([C:4][H:10])[H:6],88.1922330028701
[C:1]([C:2](=[O:3])[C:4](=[O:5])[H:9])([H:6])([H:7])[H:8]>>[C:1]([C-:2]=[O+:3][C:4](=[O:5])[H:9])([H:6])([H:7])[H:8],56.011005534039604
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5]#[N:6])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[C:4](\[C:5]#[N:6])[H:14])[H:15])([H:7])([H:8])[H:9].[C:3]([H:10])([H:11])([H:12])[H:13],112.036296996459
[O:1]([C@:2]1([H:9])[C:3](=[O:4])[C:5]([H:8])([H:10])[O:6]1)[H:7]>>[O:1]([C:2]([C:3](=[O:4])[C:5](=[O:6])[H:10])([H:8])[H:9])[H:7],41.4362792461125
[C:1]([C:2](=[O:3])[C:4](=[O:5])[N:6]([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])/[C:4]([O:5][H:10])=[N:6]\[H:11])([H:7])([H:8])[H:9],44.58226999168549
[N:3](=[C:4]([H:9])[H:10])[H:8].[O:1]=[C:2]([N+:6]#[C-:5])[H:7]>>[O:1]=[C:2]([N:3]([C:4]([C:5]#[N:6])([H:9])[H:10])[H:8])[H:7],28.398744433295107
[C:1]([C:2](=[O:3])[C:4]([C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[H:11])([H:7])([H:8])[H:9].[C:4](=[C:5]([O:6][H:14])[H:12])([H:10])[H:13],92.52449933129499
[C:1]([C:2]([H:11])([H:12])[H:13])([H:8])([H:9])[H:10].[C:3]([O:4][H:14])[C:5]([C:6](=[O:7])[H:17])([H:15])[H:16]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],15.827514501697706
[N:1]1([H:6])[C:2]([H:7])=[C:3]1[H:8].[N:4]#[N:5]>>[n:1]1([H:6])[c:2]([H:7])[c:3]([H:8])[n:4][n:5]1,18.999170924498195
[O-:1][C:6](=[C+:2][C:3]([N:4]=[C:5]([H:9])[H:10])([H:7])[H:8])[H:11]>>[O:1]=[C:2]1[C:3]([H:7])([H:8])[N:4]2[C:5]([H:9])([H:10])[C@@:6]12[H:11],10.665220976494219
[C:1](/[N:2]=[C:3](/[N:4]([C:5](=[O:6])[H:12])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1](/[C:3](=[N:2]/[N:4]([C:5](=[O:6])[H:12])[H:11])[H:10])([H:7])([H:8])[H:9],111.78612467245199
[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]12[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[C:6]2([H:15])[H:16]>>[C:1]([C:3]1([C:2]([H:8])([H:9])[H:10])[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[C:6]1([H:15])[H:16])[H:7],66.9992666409132
[C:1]([C@@:2]([C:3](=[O:4])[H:12])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([C@@:5]([C:3](=[O:4])[H:12])([O:6][H:8])[N:7]([H:13])[H:14])[H:11])([H:9])[H:10],83.95758458956159
[C:1]([C:2]([C:3]#[C:4][C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:3](=[C:2]([H:10])[H:11])[C+:4]=[C:5]([O-:6])[H:12])([H:7])([H:8])[H:9],70.8245475011949
[C-:5]#[O+:6].[C:1]([N:2]([C:3][O:4][H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2]([C:3](=[O:4])[C:5](=[O:6])[H:11])[H:10])([H:7])([H:8])[H:9],8.760464866171795
[C:1]([O:2][C@@:3]1([H:11])[C@@:4]2([H:12])[C:5]([H:13])([H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C:4]1([H:12])[C-:5]([H:13])[C:6]([H:15])([H:16])[C+:7]1[H:17])([H:11])[H:14])([H:8])([H:9])[H:10],98.09103888804421
